US07544697B2
A modification of the method described in Part E of Examples 1-4 was used to treat 1-ethyl-5-(2-methanesulfonylethyl)-1H-pyrazole-3-carboxamide (3.46 g, 14.1 mmol) with phosphorous oxychloride (10 mL). The reaction was heated for 2.5 hours. After the addition of ammonium hydroxide (35 mL of 28%) a precipitate formed. The mixture was stirred for 30 minutes, and the precipitate was isolated by filtration and washed with water to provide 3.1 g of 1-ethyl-5-(2-methanesulfonylethyl)-1H-pyrazole-3-carbonitrile as a white powder.

reactant | 1-ethyl-5-(2-methanesulfonylethyl)-1H-pyrazole-3-carboxamide | 14.1 mmol, 3.46 g | C(C)N1N=C(C=C1CCS(=O)(=O)C)C(=O)N | C9H15N3O3S
reactant | ammonium hydroxide | 35 mL | [OH-].[NH4+]
solvent | phosphorous oxychloride | 10 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1-ethyl-5-(2-methanesulfonylethyl)-1H-pyrazole-3-carbonitrile | 3.1 g | C(C)N1N=C(C=C1CCS(=O)(=O)C)C#N | C9H13N3O2S
